US09107964B2
107 mg (0.20 mmol equivalents) of 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-[(4-formyl-2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane was dissolved in 3.0 mL of ethanol, 10 mg (0.24 mmol equivalents) of sodium borohydride was added thereto, and the mixture was stirred at room temperature (25° C.) for 10 minutes. After completion of the reaction, acetone was added dropwise, and the mixture was concentrated under vacuum. The obtained crude product was purified by silica gel column chromatography (eluent: hexane/ethyl acetate (v/v)=1/1) to give 101 mg (0.19 mmol equivalents) of 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-{(4-hydroxymethyl-2-nitro-1H-imidazol-1-yl)methyl}-1,3-dioxane.

reactant | 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-[(4-formyl-2-nitro-1H-imidazol-1-yl)methyl]-1,3-dioxane | 0.20 mmol, 107 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1(COC(OC1)(C)C)CN1C(=NC(=C1)C=O)[N+](=O)[O-] | C28H35N3O6Si
reactant | sodium borohydride | 0.24 mmol, 10 mg | [BH4-].[Na+]
reactant | acetone | CC(=O)C | C3H6O
solvent | ethanol | 3.0 mL | C(C)O | C2H6O
product | 5-(t-butyldiphenylsiloxymethyl)-2,2-dimethyl-5-{(4-hydroxymethyl-2-nitro-1H-imidazol-1-yl)methyl}-1,3-dioxane | 0.19 mmol, 101 mg | O([Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CC1(COC(OC1)(C)C)CN1C(=NC(=C1)CO)[N+](=O)[O-] | C28H37N3O6Si
